US08895745B2
Step 4: 6-(4-Fluoro-phenyl)-3-iodo-pyrazolo[1,5-a]pyridine
N-iodosuccinimide (630 mg, 2.8 mmol) was added in one portion to a stirred solution of 6-(4-fluoro-phenyl)-pyrazolo[1,5-a]pyridine (500 mg, 2.4 mmol) in dry DMF (6 ml) at RT under N2. After 45 minutes, the reaction was quenched with saturated aqueous sodium thiosulphate/saturated NaHCO3 (1:1, 40 ml). The mixture was stirred at RT for 15 minutes then partitioned between EtOAc/H2O. The organic layer was washed with water (×1), brine (×1), then dried (MgSO4), filtered and evaporated. The residue was purified trituration with petrol to give the title compound (635 mg, solid). 1H NMR (400 MHz, CDCl3): 8.61 (1H, s), 7.98 (1H, s), 7.57-7.51 (3H, m), 7.42 (1H, dd), 7.22-7.13 (2H, m).

reactant | N-iodosuccinimide | 2.8 mmol, 630 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 6-(4-fluoro-phenyl)-pyrazolo[1,5-a]pyridine | 2.4 mmol, 500 mg | FC1=CC=C(C=C1)C=1C=CC=2N(C1)N=CC2 | C13H9FN2
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 6-(4-Fluoro-phenyl)-3-iodo-pyrazolo[1,5-a]pyridine | 635 mg | FC1=CC=C(C=C1)C=1C=CC=2N(C1)N=CC2I | C13H8FIN2
